US04904664
To initiate reaction several magnesium turnings and one drop of bromoethane were added to a mixture of magnesium powder (7.5 g) in a dry tetrahydrofuran, THF, (20 ml). Steady reflux was maintained by the portionwise addition of a solution of bromoethane (23 ml) in dry THF (50 ml). The solution was stirred under reflux for one hour, treated with a saturated solution of terephthalaldehyde (13.4 g) in THF, the resultant mixture was diluted with THF (100 ml) and stirred under reflux for 1/2 hour. The reaction mixture was allowed to cool to room temperature and was treated with saturated aqueous ammonium chloride (5 ml), ammonium chloride powder (2 g) and magnesium sulphate. The resultant mixture was stirred for one hour and filtered. The yellow filtrate was evaporated to dryness to yield a solid which was dissolved in a hot mixture of glacial acetic acid and acetone (1:1) and was added portionwise to aqueous chromic acid (1.67M, 150 ml). The solution was allowed to stand at room temperature for 2 days, and was then treated with ethanol (10 ml) and stirred for 1/2 hour. Water (200 ml) was added and the mixture was extracted with ethyl acetate. The combined ethyl acetate extracts were washed successively with water, dilute aqueous sodium bicarbonate, water and saturated aqueous ammonium chloride, dried (magnesium sulphate) and evaporated to dryness to afford a grey-green oil. Trituration with diethyletherpetroleum ether (b.p. 40°-60° C.) afforded a solid, which was eluted from a silica column with dichloromethane to afford as white crystals 1,4-dipropionylbenzene (2.4 g) m.p. 98°-101° C.

reactant | magnesium | [Mg] | Mg
reactant | magnesium | 7.5 g | [Mg] | Mg
reactant | bromoethane | 23 ml | BrCC | C2H5Br
reactant | terephthalaldehyde | 13.4 g | C(C1=CC=C(C=O)C=C1)=O | C8H6O2
reactant | ammonium chloride | 5 ml | [Cl-].[NH4+]
reactant | ammonium chloride | 2 g | [Cl-].[NH4+]
reactant | magnesium sulphate | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | chromic acid | 1.67M, 150 ml | [Cr](=O)(=O)(O)O
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | THF | 20 ml | C1CCOC1 | C4H8O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | bromoethane | one drop | BrCC | C2H5Br
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetone | CC(=O)C | C3H6O
solvent | ether | CCOCC | C4H10O
solvent | Water | 200 ml | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 1,4-dipropionylbenzene | 2.4 g | C(CC)(=O)C1=CC=C(C=C1)C(CC)=O | C12H14O2
